US06921763B2
A mixture of N2-(4-bromophenyl)-5-(trifluoromethoxy)-1,3-benzoxazol-2-amine (0.9 g, 0.0024 mol), diboron pinacol ester (0.73 g, 0.0029 mol), [1.1′-bis(diphenylphosphino)ferrocene]dichloropalladium (II) complex with dichloromethane (1:1) (0.2 g, 0.00024 mol) and potassium acetate (0.71 g, 0.0072 mol) in N,N-dimethylformamide (25 mL) was heated at 80° C. under an atmosphere of nitrogen for 16 hours. The mixture was allowed to cool to ambient temperature and the solvent removed under reduced pressure. The residue was filtered through silica pad 25% ethyl acetate/n-heptane as a mobile phase. The solvent was removed, and the residue was triturated with n-heptane to give N2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-5-(trifluoromethoxy)-1,3-benzoxazol-2-amine (0.68 g, 0.0016 mol). RP-HPLC (Delta Pak C18, 5 μm, 300 A, 15 cm; 5%-95% acetonitrile-0.1M ammonium acetate over 20 min, 1 mL/min) Rt 18.8 min. MS: MH+: 421

reactant | N2-(4-bromophenyl)-5-(trifluoromethoxy)-1,3-benzoxazol-2-amine | 0.0024 mol, 0.9 g | BrC1=CC=C(C=C1)NC=1OC2=C(N1)C=C(C=C2)OC(F)(F)F | C14H8BrF3N2O2
reactant | diboron pinacol ester | 0.0029 mol, 0.73 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | dichloromethane | 0.00024 mol, 0.2 g | ClCCl | CH2Cl2
reactant | potassium acetate | 0.0072 mol, 0.71 g | C(C)(=O)[O-].[K+]
solvent | N,N-dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
product | N2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-5-(trifluoromethoxy)-1,3-benzoxazol-2-amine | 0.0016 mol, 0.68 g | CC1(OB(OC1(C)C)C1=CC=C(C=C1)NC=1OC2=C(N1)C=C(C=C2)OC(F)(F)F)C | C20H20BF3N2O4
